US04910201
Synthesis of 4-bromo-5-(4-chloro-2-fluorobenzyloxy)-2-(3,4-dichlorophenyl)-3(2H)-pyridazinone (Compound No. 522)
To a mixture of 2.0 g (5.0 m mol) of 4,5-dibromo-2-(3,4-dichlorophenyl)-3(2H)-pyridazinone and 0.84 g (5.2 m mol) of 4-chloro-2-fluorobenzyl alcohol was added 80 ml of N,N-dimethylformamide. The resulting mixture was cooled with ice, incorporated with 0.4 g of potassium hydroxide and then stirred for one day. Then, the procedures in Synthesis Example 2 were repeated to give a crude product. The crude product was recrystallized from benzene to give 1.3 g of the intended compound.

reactant | 4,5-dibromo-2-(3,4-dichlorophenyl)-3(2H)-pyridazinone | 2.0 g | BrC=1C(N(N=CC1Br)C1=CC(=C(C=C1)Cl)Cl)=O | C10H4Br2Cl2N2O
reactant | 4-chloro-2-fluorobenzyl alcohol | 0.84 g | ClC1=CC(=C(CO)C=C1)F | C7H6ClFO
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-bromo-5-(4-chloro-2-fluorobenzyloxy)-2-(3,4-dichlorophenyl)-3(2H)-pyridazinone | 1.3 g | BrC=1C(N(N=CC1OCC1=C(C=C(C=C1)Cl)F)C1=CC(=C(C=C1)Cl)Cl)=O | C17H9BrCl3FN2O2
